US08013156B2
N-[3,5-bis(trifluoromethyl)phenyl]-4-{3-[(pyridin-4-ylmethyl)oxy]pyrazin-2-yl}piperazine-1-carboxamide.
To a round bottom flask equipped with a magnetic stir bar was added 3′-(pyridin-4-ylmethoxy)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.3 g, 0.97 mmol, 1.0 eq.), dry CH2Cl2 (3 mL), triethyl amine (TEA) (0.54 g, 0.4 mL, 5.1 mmol, 5 eq) and was then cooled in an ice bath. 1-Isocyanato-3,5-bis-trifluoromethyl-benzene (0.29 g, 0.2 ml, 1.2 mmol, 1.2 eq.) was then added drop wise to the reaction mixture. Total reaction time was 3 hours at which point the reaction was diluted with 3× the volume EtOAc. This solution was then washed 3× with NaHCO3 and 2× with brine. The organic layer was dried with Na2SO4, concentrated, and the solid was columned with a Biotage system using a gradient. The initial eluent was 1:1 ethyl acetate/hexane followed by an eluent 3:1 ethyl acetate/hexane. The solvent was then removed and dried under high vacuum to yield the title compound (0.16 g, 32% yield) as a solid. 1H NMR (CDCl3) 8.63 (d, 2H), 7.90 (s, 2H), 7.81 (d, 1H), 7.62 (d, 1H), 7.54 (s, 1H), 7.34 (d, 2H), 7.26 (s, 2H), 6.78 (s, 1H), 5.48 (s, 2H), 3.67 (m, 8H) ppm.

reactant | 3′-(pyridin-4-ylmethoxy)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.97 mmol, 0.3 g, 1.0 eq. | N1=CC=C(C=C1)COC=1C(=NC=CN1)N1CCNCC1 | C14H17N5O
reactant | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
reactant | triethyl amine | 5.1 mmol, 0.4 mL, 0.54 g, 5 eq | C(C)N(CC)CC | C6H15N
reactant | 1-Isocyanato-3,5-bis-trifluoromethyl-benzene | 1.2 mmol, 0.2 ml, 0.29 g, 1.2 eq. | N(=C=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H3F6NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[3,5-bis(trifluoromethyl)phenyl]-4-{3-[(pyridin-4-ylmethyl)oxy]pyrazin-2-yl}piperazine-1-carboxamide | 0.16 g, 32% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=NC=CN=C1OCC1=CC=NC=C1)(F)F | C23H20F6N6O2
